US04429139
a. 3,7-Dimethyl-6,7-epoxy-1-octanol
210 g (1.1 M) of 40% peracetic acid were added dropwise within 1 h to a stirred suspension of 156 g (0.95 M; purity 95%) of citronellol kept at 0° and 53 g (0.5 M) of sodium carbonate in 200 ml of toluene. The reaction mixture was kept under stirring at 20° during 4 h then it was washed with water, a 5% solution of sodium sulfite and a 10% aqueous solution of NaHCO3. After drying over anhydrous sodium sulfate, evaporation of the solvent and distillation (70°-78°/20×102Pa), 139 g (yield 83%; purity 98%) of the desired epoxyde were obtained.

reactant | peracetic acid | 1.1 M, 210 g | C(C)(=O)OO | C2H4O3
reactant | citronellol | 0.95 M, 156 g | CC(C)=CCCC(C)CCO | C10H20O
reactant | sodium carbonate | 0.5 M, 53 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3,7-Dimethyl-6,7-epoxy-1-octanol | yield 83% | CC(CCO)CCC1C(C)(O1)C | C10H20O2
